US05684161
Synthesis of methyl 1-methyl-3-pyrrolecarboxylate
A mixture of 9.52 g (0.0813 mole) of N-formylsarcosine prepared in the Reference Example 1, 25.56 g (0.304 mole) of methyl propiolate, and 65 ml of acetic anhydride was stirred using a magnetic stirrer over an oil bath at 130° C. for 24 hours. The reaction mixture was concentrated under vacuum. 30 ml of toluene was added to the residue and the mixture was evaporated under reduced pressure. This procedure was repeated to obtain a brown oily substance. This oily substance was distilled under vacuum to obtain 9.01 g (yield 79.6%) of a colorless or light-yellow oil of the title compound as fractions with a boiling point of 93°-96° C. at 4 mmHg.

reactant | N-formylsarcosine | 0.0813 mole, 9.52 g | C(=O)N(C)CC(=O)O | C4H7NO3
reactant | methyl propiolate | 0.304 mole, 25.56 g | C(C#C)(=O)OC | C4H4O2
reactant | acetic anhydride | 65 ml | C(C)(=O)OC(C)=O | C4H6O3
product | methyl 1-methyl-3-pyrrolecarboxylate | yield 79.6% | CN1C=C(C=C1)C(=O)OC | C7H9NO2
